US07285569B2
To a solution of 50 g (0.240 mol) 4,4,4-trifluoro-1-(2-furyl)-1,3-butanedione in 24 ml (0.024 mol) 1M solution of hydrogen chloride in ethanol and further 520 ml EtOH was added. 50 g (0.248 mol) benzylhydrazine dihydrochloride in small portion at room temperature. The reaction mixture was then heated under reflux for 7 h. After cooling to room temperature the reaction mixture was neutralized with saturated NaHCO3, the EtOH was distilled off and the residual oil/water mixture was extracted with 300 ml dichloromethane. The organic phase was washed twice with 100 ml water and dried over Na2SO4 and concentrated in vacuo to give 73.7 g 1-benzyl-5-furan-2-yl-3-trifluoromethyl-1H-pyrazole as a brown oil which was used crude for the next reaction.

reactant | 4,4,4-trifluoro-1-(2-furyl)-1,3-butanedione | 0.240 mol, 50 g | FC(C(CC(=O)C=1OC=CC1)=O)(F)F | C8H5F3O3
reactant | hydrogen chloride | Cl | ClH
reactant | benzylhydrazine dihydrochloride | 0.248 mol, 50 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | EtOH | 520 ml | CCO | C2H6O
product | 1-benzyl-5-furan-2-yl-3-trifluoromethyl-1H-pyrazole | 73.7 g | C(C1=CC=CC=C1)N1N=C(C=C1C=1OC=CC1)C(F)(F)F | C15H11F3N2O
